US07989457B2
Step G. 3-{3-Fluoro-4-[1-(2-methyl-4′-trifluoromethyl-biphenyl-4-yl)-heptyloxy]-benzoylamino}-propionic acid
Add sodium hydroxide (5.0N, 0.03 mL, 0.15 mmol) to 3-{3-Fluoro-4-[1-(2-methyl-4′-trifluoromethyl-biphenyl-4-yl)-heptyloxy]-benzoylamino}-propionic acid ethyl ester (0.024 g, 0.041 mmol) in ethanol (5 mL) and stir for three hours. Acidify with 1.0 N HCl and extract desired compound with ethyl acetate three times. Wash organic phase with saturated sodium chloride solution, dry over Na2SO4, filter, and concentrate under reduced pressure to provide 0.019 g (83%) of title compound. MS (ESI) m/z 560.2 [M+H]+.

reactant | sodium hydroxide | 0.15 mmol, 5.0N, 0.03 mL | [OH-].[Na+]
reactant | 3-{3-Fluoro-4-[1-(2-methyl-4′-trifluoromethyl-biphenyl-4-yl)-heptyloxy]-benzoylamino}-propionic acid ethyl ester | 0.041 mmol, 0.024 g | C(C)OC(CCNC(C1=CC(=C(C=C1)OC(CCCCCC)C1=CC(=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)C)F)=O)=O | C33H37F4NO4
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 3-{3-Fluoro-4-[1-(2-methyl-4′-trifluoromethyl-biphenyl-4-yl)-heptyloxy]-benzoylamino}-propionic acid | 0.019 g, 83% | FC=1C=C(C(=O)NCCC(=O)O)C=CC1OC(CCCCCC)C1=CC(=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)C | C31H33F4NO4
